US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole (8.0 g), ethyl 3-chloro-4-hydroxybenzoate (7.38 g), potassium carbonate (5.09 g) and N,N-dimethylformamide (200 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration and dried to give ethyl 3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate as brown crystals (9.90 g, yield 74%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 145-146° C.

reactant | 4-chloromethyl-2-(2-furyl)-5-methyl-1,3-oxazole | 8.0 g | ClCC=1N=C(OC1C)C=1OC=CC1 | C9H8ClNO2
reactant | ethyl 3-chloro-4-hydroxybenzoate | 7.38 g | ClC=1C=C(C(=O)OCC)C=CC1O | C9H9ClO3
reactant | potassium carbonate | 5.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 3-chloro-4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}benzoate | 9.90 g, yield 74% | ClC=1C=C(C(=O)OCC)C=CC1OCC=1N=C(OC1C)C=1OC=CC1 | C18H16ClNO5
